US05223516
a) (2S)-[[(Phenylmethoxy)carbonyl]amino]-3-cyanopropanoic acid
Bis (trimethylsilyl)trifluoroacetamide (9.4 mL, 35 mmol.) was added to a suspension of (αS)-amino-3-cyanopropanoic acid (2.0 g., 17.5 mmol.) in 10 mL of dry acetonitrile and the reaction mixture was stirred for 3 hours. Benzylchloroformate (2.5 mL, 17.5 mmol) was added, the reaction mixture was stirred overnight, concentrated in vacuo, and dissolved in ethyl acetate (200 mL). The organic solution was washed with water (2×) and brine, dried (Na2SO4), and concentrated in vacuo. Crystallization from isopropyl ether yielded 3.82 g. of the title A product.

reactant | Bis (trimethylsilyl)trifluoroacetamide | 35 mmol, 9.4 mL | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | (αS)-amino-3-cyanopropanoic acid | 17.5 mmol, 2.0 g | N[C@H](C(=O)O)CC#N | C4H6N2O2
reactant | Benzylchloroformate | 17.5 mmol, 2.5 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (2S)-[[(Phenylmethoxy)carbonyl]amino]-3-cyanopropanoic acid | C1(=CC=CC=C1)COC(=O)N[C@H](C(=O)O)CC#N | C12H12N2O4
